US07759379B2
N-[5-(4,4-Dimethyl-2,5-dioxo-3-pyridin-4-ylmethyl-imidazolidin-1-yl)-2-trifluoromethoxy-phenyl]-2-chloro-acetamide
500 mg (1.27 mmol) 3-(3-amino-4-trifluormethoxy-phenyl)-5,5-dimethyl-1-pyridin-4-ylmethyl-imidazolidine-2,4-dione and 172 mg (1.33 mmol) Hünig's base were dissolved in 20 ml 1,2-dichloroethane. The mixture was cooled to −20° C. and treated with a solution of 143 mg (1.27 mmol) chloroacetylchlorid in 15 ml 1,2-dichloroethane. After stirring 1 h at 0° C., 5 ml ethanolic hydrochlric acid were added and the mixture evaporated to dryness. The raw material, containing huening's base hydrochloride was used without further purification.

reactant | 3-(3-amino-4-trifluormethoxy-phenyl)-5,5-dimethyl-1-pyridin-4-ylmethyl-imidazolidine-2,4-dione | 1.27 mmol, 500 mg | NC=1C=C(C=CC1OC(F)(F)F)N1C(N(C(C1=O)(C)C)CC1=CC=NC=C1)=O | C18H17F3N4O3
reactant | Hünig's base | 1.33 mmol, 172 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | chloroacetylchlorid | 1.27 mmol, 143 mg | ClCC(=O)Cl | C2H2Cl2O
solvent | 1,2-dichloroethane | 20 ml | ClCCCl | C2H4Cl2
solvent | 1,2-dichloroethane | 15 ml | ClCCCl | C2H4Cl2
product | N-[5-(4,4-Dimethyl-2,5-dioxo-3-pyridin-4-ylmethyl-imidazolidin-1-yl)-2-trifluoromethoxy-phenyl]-2-chloro-acetamide | CC1(N(C(N(C1=O)C=1C=CC(=C(C1)NC(CCl)=O)OC(F)(F)F)=O)CC1=CC=NC=C1)C | C20H18ClF3N4O4
